US06004977
To a slurry of 3-fluoro-4-methoxybenzoic acid (30.0 g) in toluene (100 ml) was added thionyl chloride (25 ml). The reaction was heated under reflux for 2 hrs and then distilled. The residue was dried under high vacuum to give 32 g of 3-fluoro-4-methoxybenzoyl chloride. To a solution of 2-amino-2-methyl-1-propanol (35 ml) in dichloromethane (200 ml) was added a solution of the 3-fluoro-4-methoxybenzoyl chloride in dichloromethane (150 ml). The reaction mixture was stirred for 1 hr at ambient temperature, dichloromethane (500 ml) was added, and washed with 2N hydrochloric acid (1 l). The layers were separated and the organic extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. To the residue was added thionyl chloride (25 ml) at 0° C. The reaction mixture was stirred for 30 min, diethyl ether (200 ml) was added, and the mixture was stirred for 10 min. The supernatant was decanted. 10% Sodium hydroxide solution was added, and the mixture was extracted with ethyl acetate. The organic extracts were combined, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo to give 36 g (91%) of product, mp 59-60° C.

reactant | 3-fluoro-4-methoxybenzoic acid | 30.0 g | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-methoxybenzoyl chloride | 32 g | FC=1C=C(C(=O)Cl)C=CC1OC | C8H6ClFO2
